US06063807
Methylguanidine Acetylsalicylate
450 mg (2.5 mmol) acetylsalicylic acid are dissolved in 20 ml water containing 2.5 ml of 1N NaOH. Next 237.8 mg methylguanidine chlorohydrate in 10 ml water is added. The mixture is agitated for 15 minutes. A clear solution is obtained. Lyophilizationfurnishes a white powder (m.p.=153° C.). NMR-1H (100 MHz, D2O): 7.3-6.6 (m, 4H, aromatic); 2.3 (s, 3H, NCH3); 1.8 (s, 3H, COCH3).

reactant | acetylsalicylic acid | 2.5 mmol, 450 mg | C(C)(=O)OC=1C(C(=O)O)=CC=CC1 | C9H8O4
reactant | methylguanidine | 237.8 mg | CNC(=N)N | C2H7N3
solvent | water | 20 ml | O | H2O
solvent | NaOH | 1N | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | Methylguanidine Acetylsalicylate | C(C)(=O)OC=1C(C(=O)O)=CC=CC1.CNC(=N)N | InChI=1S/C9H8O4.C2H7N3/c1-6(10)13-8-5-3-2-4-7(8)9(11)12;1-5-2(3)4/h2-5H,1H3,(H,11,12);1H3,(H4,3,4,5)
